US03962236
A solution of 10.4 g. of sodium thiosulfate in 60 ml. of water and 100 ml. of ethanol is poured onto 8.6 g. of 1-(2-bromoethyl)-3-methylindole. The reactionmixture is stirred and heated at reflux for 3.5 hr., allowed to cool, and evaporated to dryness. The solid residue is dissolved in boiling isopropanol, dried with a hydrated alkali-aluminum silicate ("Molecular Sieves"), and filtered. Chilling of the filtrate causes 6.4 g. of the sodium indolyethyl thiosulfate derivative to precipitate. This material is collected by filtration and washed with ether. The isolated intermediate is heated at reflux with a solution of sodium hydroxide (9 g. of NaOH, 60 ml. of water, 140 ml. of ethanol) for 3 hr. Ethanol is removed under reduced pressure, the aqueous residue diluted with water and extracted with three portions of ether. Combined ether extracts are washed with water, saturated brine solution, and dried over magnesium sulfate. The filtrate is evaporated, to yield bis-[2-(3-methylindole-1-yl)ethyl]disulfide.

reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
reactant | 1-(2-bromoethyl)-3-methylindole | BrCCN1C=C(C2=CC=CC=C12)C | C11H12BrN
solvent | ethanol | C(C)O | C2H6O
product | bis-[2-(3-methylindole-1-yl)ethyl]disulfide | CC1=CN(C2=CC=CC=C12)CCSSCCN1C=C(C2=CC=CC=C12)C | C22H24N2S2
